US04410539
Thionyl chloride (0.75 ml.) was added cautiously to a solution of 6-hydroxymethyl-3-methylbenzo[b]-thiophene-2-carboxylic acid methyl ester (0.70 g.) and pyridine (3 drops) in chloroform (7.5 ml.) and the resulting solution was allowed to stand for 1 hour. It was then washed successively with water, sodium bicarbonate solution and dried (Na2SO4). Evaporation of the solvent gave a solid which was crystallized from petrol (b.p. 60°-80°) to give 6-chloromethyl-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (0.63 g.), m.p. 128°-129° C.

reactant | Thionyl chloride | 0.75 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-hydroxymethyl-3-methylbenzo[b]-thiophene-2-carboxylic acid methyl ester | 0.70 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)CO)C | C12H12O3S
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 7.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloromethyl-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 0.63 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)CCl)C | C12H11ClO2S
